US07576115B2
Synthesis of methyl 2-nitro-4-hydrazinocarbonylbenzoate
From 4-methoxycarbonyl-3-nitrobenzoic acid, thionyl chloride and hydrazine monohydrate, 758 mg of the desired product was obtained in the same manner as in Reference Synthetic Example 39 as a white solid (yield 79%).

reactant | 4-methoxycarbonyl-3-nitrobenzoic acid | COC(=O)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H7NO6
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | hydrazine monohydrate | O.NN
product | methyl 2-nitro-4-hydrazinocarbonylbenzoate | 758 mg | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)C(=O)NN | C9H9N3O5
